US05430042
Preparation of 5-acetyl-6-methyl-2-[[(4-cyclopropylmethoxy-3-methoxy-2-pyridinyl)methyl]thio]- 1H-benzimidazole
2-Chloromethyl-4-cyclopropylmethoxy-3-methoxypyridine (50 mg, 0.22 mmol) and 5-acetyl-6-methyl-2-mercaptobenzimidazole (50 mg, 0.24 mmol) were dissolved in ethanol (15 ml). The pH value of the solution was adjusted to 9 (0.2M NaOH) whereupon the solution was refluxed for 10 min. After concentration of the reaction mixture at reduced pressure the residue was taken up in methylene chloride (10 ml) and brine (2 ml). The phases were separated and the organic phase was dried over sodium sulphate, filtered and concentrated at reduced pressure. The residue was chromatographed on silica (ethyl acetate). Yield: 40 mg (46%) of the title compound.

reactant | 2-Chloromethyl-4-cyclopropylmethoxy-3-methoxypyridine | 0.22 mmol, 50 mg | ClCC1=NC=CC(=C1OC)OCC1CC1 | C11H14ClNO2
reactant | 5-acetyl-6-methyl-2-mercaptobenzimidazole | 0.24 mmol, 50 mg | C(C)(=O)C1=CC2=C(N=C(N2)S)C=C1C | C10H10N2OS
reactant | NaOH | 0.2M | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | brine | 2 ml | [Cl-].[Na+].O
product | 5-acetyl-6-methyl-2-[[(4-cyclopropylmethoxy-3-methoxy-2-pyridinyl)methyl]thio]- 1H-benzimidazole | C(C)(=O)C1=CC2=C(NC(=N2)SCC2=NC=CC(=C2OC)OCC2CC2)C=C1C | C21H23N3O3S
